US08372865B2
5-Methyl-6-nitroindoline (0.75 gr) was dissolved in 20 mL dioxane and treated with 1.5 g of dichloro dicyano quinone. The solution was heated at 80° C. for two hours, then cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by flash chromatography to give 0.5 g of 5-methyl-6-nitroindole (e/z (M+H) 177).

reactant | 5-Methyl-6-nitroindoline | 0.75 gr | CC=1C=C2CCNC2=CC1[N+](=O)[O-] | C9H10N2O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-methyl-6-nitroindole | 0.5 g | CC=1C=C2C=CNC2=CC1[N+](=O)[O-] | C9H8N2O2
